US08217065B2
I. 3-(4-{6-[5-(3-Chlorophenylamino)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propionic acid
To a solution of 3-(4-{6-[5-(3-chlorophenylamino)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propionic acid methyl ester (190 mg, 0.38 mmol) in MeOH (10 mL) was added 1.0 N NaOH (1.14 mL, 1.14 mmol) and the mixture was stirred at RT for 24 h. The solvent was removed under reduced pressure and water was added. The resulting solution was washed with EtOAc and 1.0 N HCl (1.14 mL) was added to the aqueous phase. The mixture was extracted with EtOAc and the organic phase was dried over sodium sulfate. The solvent was removed under reduced pressure and the resulting gum was triturated with MeCN to give the title compound as a beige solid. MS: m/z 488.1 (M+1). H1-NMR (DMSO-d6): δ ppm 12.91 (s, broad, 0.6H), 12.12 (s, broad, 0.7H), 10.93 (s, 0.6 H), 8.17-7.95 (m, 1H), 7.90-7.65 (m, 3H), 7.53 (d, J=9.47 Hz, 1H), 7.41 (t, 1H), 7.12-7.05 (m, 3H), 2.84 (t, 2H), 2.59 (t, 2H), 2.10 (s, 6H).

reactant | 3-(4-{6-[5-(3-chlorophenylamino)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propionic acid methyl ester | 0.38 mmol, 190 mg | COC(CCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C=2OC(=NN2)NC2=CC(=CC=C2)Cl)C)=O | C27H24ClN5O3
reactant | NaOH | 1.14 mmol, 1.0 N, 1.14 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(4-{6-[5-(3-Chlorophenylamino)-[1,3,4]oxadiazol-2-yl]-1H-benzoimidazol-2-yl}-3,5-dimethylphenyl)-propionic acid | ClC=1C=C(C=CC1)NC1=NN=C(O1)C=1C=CC2=C(NC(=N2)C2=C(C=C(C=C2C)CCC(=O)O)C)C1 | C26H22ClN5O3
